US05843957
Preparation of N-[1-(3-phthalimidopropyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea
To a solution of N-[4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea (200 mg, 0.43 mmol) and N-(3-bromopropyl)phthalimide (133 mg, 0.50 mmol) in DMF (10 ml) was added potassium carbonate (114 mg, 0.83 mmol), and the mixture was stirred at 50°-60° C. for one hour. After allowed to stand for cooling, the mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The residue was concentrated under reduced pressure, purified by silica gel column chromatography (1-3% methanol in chloroform), and crystallized from hexane to give the title compound (229 mg, 0.35 mmol).

reactant | N-[4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.43 mmol, 200 mg | COC=1C=C(C=CC1)C1=C(C(NC2=NC=CC=C12)=O)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C28H30N4O3
reactant | N-(3-bromopropyl)phthalimide | 0.50 mmol, 133 mg | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | 0.83 mmol, 114 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-[1-(3-phthalimidopropyl)-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,6-diisopropylphenyl)urea | 0.35 mmol, 229 mg | C1(C=2C(C(N1CCCN1C(C(=C(C3=CC=CN=C13)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)=O)=O)=CC=CC2)=O | C39H39N5O5
